US06576626B2
(2R)-3-amino-2-fluoro-1-propanol (4.6 g, 49 mmol) was dissolved in 25% aqueous dioxane (160 mL), potassium carbonate (7.1 g, 51 mmol) was added and the mixture cooled to 0° C. Di-tert-butyl dicarbonate (11.6 g, 53 mmol) was added in two portions. The mixture was then allowed to warm to room temperature overnight. The crude reaction mixture was concentrated to dryness, water (150 mL) was added followed by saturated aqueous potassium hydrogen sulfate (until pH=3 approx.). The organic material was extracted with methylene chloride (2×150 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure to afford tert-butyl (2R)-2-fluoro-3-hydroxypropylcarbamate (9.5 g, 100%) as a colorless oil.

reactant | (2R)-3-amino-2-fluoro-1-propanol | 49 mmol, 4.6 g | NC[C@H](CO)F | C3H8FNO
reactant | potassium carbonate | 51 mmol, 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Di-tert-butyl dicarbonate | 53 mmol, 11.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 160 mL | O1CCOCC1 | C4H8O2
product | tert-butyl (2R)-2-fluoro-3-hydroxypropylcarbamate | 9.5 g, 100% | F[C@H](CNC(OC(C)(C)C)=O)CO | C8H16FNO3
